US08389743B2
3-(3-fluoro-4-(pyrrolidin-1-ylmethyl)phenyl)-3-hydroxycyclobutanecarboxylic acid
n-Butyllithium (2.5M/hexanes, 78 mL, 0.195 mol) was added down the reaction flask walls over 5 min to a −78° C. solution of 1-(4-bromo-2-fluorobenzyl)pyrrolidine (50.0 g, 0.194 mol) in THF (500 mL). After stirring at −78° C. for 1 h, a −78° C. solution of 3-oxocyclobutanecarboxylic acid (11.0 g, 96.4 mmol) in THF (150 mL) was cannulated over 10 min into the reaction mixture. The resulting dark orange solution was slowly warmed to room temperature over 16 h. LC/MS of the mixture showed the title compound 294.2 (M+H). This material was used as a crude solution without work-up, assuming ˜0.12 M concentration of the title compound.

reactant | n-Butyllithium | 0.195 mol, 2.5M, 78 mL | C(CCC)[Li]
reactant | 1-(4-bromo-2-fluorobenzyl)pyrrolidine | 0.194 mol, 50.0 g | BrC1=CC(=C(CN2CCCC2)C=C1)F | C11H13BrFN
reactant | 3-oxocyclobutanecarboxylic acid | 96.4 mmol, 11.0 g | O=C1CC(C1)C(=O)O | C5H6O3
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 3-(3-fluoro-4-(pyrrolidin-1-ylmethyl)phenyl)-3-hydroxycyclobutanecarboxylic acid | FC=1C=C(C=CC1CN1CCCC1)C1(CC(C1)C(=O)O)O | C16H20FNO3
